US08030500B2
1-(3-Bromophenyl)-4-fluoro-1-(4-fluoro-3-methoxyphenyl)-1H-isoindol-3-amine
tert-Butyllithium (3.68 mL, 5.89 mmol) was added dropwise to THF (10 mL) at −100° C. under an argon atmosphere. A solution of 4-bromo-1-fluoro-2-methoxybenzene (0.604 g, 2.95 mmol) in THF (5 ml) was added dropwise followed by the addition of (E)-N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (1 g, 2.46 mmol) in THF (5 ml). The resulting reaction mixture was left on the thawing cooling bath for 30 min then the cooling bath was removed and the mixture was stirred at r.t. for 1 h. Hydrogen chloride-methanol solution (11.78 mL, 14.73 mmol) was added and the resulting mixture was stirred at r.t. for 1 h. The mixture was concentrated and purified on a silica gel column eluting with 0-10% 0.1 M NH3 in MeOH in DCM to afford 0.98 g (93%) of the title compound. MS (ES+) m/z 429, 431 (M+H)+

reactant | tert-Butyllithium | 5.89 mmol, 3.68 mL | C(C)(C)(C)[Li]
reactant | 4-bromo-1-fluoro-2-methoxybenzene | 2.95 mmol, 0.604 g | BrC1=CC(=C(C=C1)F)OC | C7H6BrFO
reactant | (E)-N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 2.46 mmol, 1 g | BrC=1C=C(C=CC1)/C(=N\S(=O)C(C)(C)C)/C1=C(C(=CC=C1)F)C#N | C18H16BrFN2OS
reactant | Hydrogen chloride methanol | 14.73 mmol, 11.78 mL | Cl.CO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromophenyl)-4-fluoro-1-(4-fluoro-3-methoxyphenyl)-1H-isoindol-3-amine | 0.98 g, 93% | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=C(C=C1)F)OC | C21H15BrF2N2O
